Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
encephalopathy/malaise
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
Mr. ___ is a ___ yo M patient of Dr. ___ with 
history of EtOH cirrhosis s/p combined ___ transplant 
in ___ at ___. He has had multiple ___ biliary 
complications. He has had multiple episodes of cholangitis ___ 
stricture c/b bacteremia and septic shock. He has had multiple 
ERCP's and CBD stent placements at ___. In ___, he moved his 
care to ___, where multiple more
ERCP's were performed and ultimately, it was decided to revise 
his biliary anastomosis with a ___ hepaticojejunostomy. In 
___ he was found to have intrahepatic biliary ductal 
dilation at
the proximal common duct and anastomotic stricture on MRCP. On 
___ he received a balloon dilation and 
___
biliary stent was placed (which required ___. Liver 
biopsy on ___ showed chronic rejection. 

He is now ___ for transplant due to being cirrhotic, 
Child's C w/MELD of 31 previously complicated by hepatic 
encephalopathy. His most recent EGD was ___ showing 3 cords 
of grade ___ varices in the lower third of the esophagus. The 
varices were not bleeding. Additionally he had portal 
hypertensive gastropathy, and esophagitis in lower third of 
esophagus. 

He was recently hospitalized from ___ for hepatic 
encephalopathy and new ___. His symptoms at that time resolved 
with lactulose, albumin and two units of pRBCs. 

The patient was directly admitted to ___ on ___ due to 
fatigue and encephalopathy, with concern that his hepatic 
function may be worsening. Of note the patient had labs drawn on 
___ which were notable for a hemoglobin of 7.4. The rest of 
the labs were unavailable at the time of interview. 

The patient reports that over the past month he feels he has 
worsening fatigue, that has progressively worsened over the 
preceding week. His confusion has waxed and waned throughout 
this period somewhat as well, with increasing forgetfulness. The 
patient has been doing a lot of work outside the home and feels 
that his strength Is decreasing. The patient denies any chest 
pain, shortness of breath, abdominal pain, dysuria, cough, 
nausea, vomiting, or fevers. Does get daily chills at home but 
never had a fever. The patient denies any sick contacts or 
recent travel. No bloody stools, hemoptysis, hematemesis. The 
patient has baseline loose stools up to ___ per day that have 
become more malodorous but have not otherwise changed in 
quality. Of note the patient did have a tick found on his scalp 
yesterday but was present for < 1 hour and was easily removed. 

Otherwise a 10 point ROS is negative.
 
Past Medical History:
___ gunshot wounds in ___ status post exploratory
laparotomy and colostomy.
___ colostomy was reversed.  
___, he had a history of ___ obstruction with
multiple surgeries that retrieved most of his small bowel.  
___, laparotomy again had multiple surgeries again for 
small
bowel obstruction.
___, he had a right knee arthroscopy.
___, diagnosis of cirrhosis and bleeding varices.  
___, he had hepatorenal syndrome and liver failure and he
had his combined liver and kidney transplant at ___.
H/o cholangitis, multiple ERCP with plastic/metal stents.
___ cystoscopy to remove a stent that was placed that was
causing urosepsis (this resulted in a lawsuit against ___).  
___, he underwent a lysis of adhesions at ___.
___ cholangitis/ s/p ERCP and stent placement.
___. Hepaticojejunostomy with ___.
___  PTC and liver biopsy with chronic rejection.
Hepatic encephalopathy
Gout
Depression
Insomnia 
 
Social History:
___
Family History:
Mother - dementia (___)
Father - diabetes/prostate cancer (___)
2 Children, 3 Grandchildren all healthy
 
Physical Exam:
=====================================
PHYSICAL EXAMINATION ON ADMISSION
=====================================
VS: T 98.3 HR 63 BP 119/60 RR 18 100 RA Weight 70.3kg
General: No acute distress, jaundiced, comfortable lying in bed
HEENT: NCAT, MMM, PERRL, no JVD appreciated 
CV:  RRR, with systolic murmur appreciated throughout
Lungs: CTAB, no wheezes, rales, rhonchi
Abdomen: + BS, well healed surgical scars, NTND, no ascites 
appreciated
GU: No foley
Ext:  www 1+ edema bilaterally 
Neuro: Alert and oriented x3, no asterixis, CN ___ grossly 
intact, moving all extremities with purpose
Skin: Severe jaundice

=====================================
PHYSICAL EXAMINATION ON DISCHARGE
=====================================
VS: 
68.6kg --> NR
98.7, 112/63, pulse 59, rr18, 100% on RA
8H: 200, BRP
24H: 2620, 300+ w/6BMs

General: No acute distress, jaundiced, comfortable lying in bed 
reading 
HEENT: NCAT, MMM, icteric sclerae
CV:  RRR, with systolic murmur appreciated throughout
Lungs: CTAB, no wheezes, rales, rhonchi
Abdomen: + BS, well healed surgical scars, NTND, no ascites 
appreciated
GU: No foley
Ext:  www trace edema bilaterally 
Neuro: Alert and oriented x3, no asterixis, moving all 
extremities with purpose
Skin: Severe jaundice
 
Pertinent Results:
=====================
LABS ON ADMISSION
=====================
___ 09:20PM BLOOD ___ 
___ Plt ___
___ 09:20PM BLOOD ___ 
___ Im ___ 
___
___ 09:20PM BLOOD ___ ___
___ 06:10AM BLOOD ___ 
___ 
___
___ 06:10AM BLOOD Ret ___ Abs ___
___ 09:20PM BLOOD ___ 
___
___ 09:20PM BLOOD ___ LD(LDH)-156 ___ 
___
___ 09:20PM BLOOD ___
___ 06:10AM BLOOD ___
___ 06:10AM BLOOD tacroFK-<2.0*
___ 06:46PM URINE ___ Sp ___
___ 06:46PM URINE ___ 
___
___ 06:46PM URINE ___ 
Epi-<1
___ 06:46PM URINE ___
___ 06:46PM URINE ___

=====================
LABS ON DISCHARGE
=====================
___ 04:20AM BLOOD ___ 
___ Plt ___
___ 04:20AM BLOOD ___ ___
___ 04:20AM BLOOD ___ 
___
___ 12:45PM BLOOD ___ 
___
___ 04:20AM BLOOD ___ 
___
___ 04:20AM BLOOD ___
___ 12:45PM BLOOD ___
___ 04:20AM BLOOD ___

=====================
MICROBIOLOGY
=====================
___ - Urine Culture - MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION.
___ - Blood Culture x2 - FINAL -  No Growth

=====================
ENDOSCOPY
=====================
___ EGD
Findings:
Esophagus: 
Protruding Lesions 1 cord of small varices were seen in the 
distal esophagus.
 
Stomach: 
Mucosa: Erythema and mosaic appearance of the mucosa were noted 
in the stomach. These findings are compatible with portal 
hypertensive gastropathy. 
Other Possible gastric varices were noted upon retroflexion in 
the fundus.  
Duodenum: Normal duodenum.

Otherfindings: No definitive source of patient's recent 
worsening anemia was identified. No stigmata of recent bleed.  

Impression: Varices at the distal esophagus
Erythema and mosaic appearance in the stomach compatible with 
portal hypertensive gastropathy
Possible gastric varices were noted upon retroflexion in the 
fundus.
No definitive source of patient's recent worsening anemia was 
identified. No stigmata of recent bleed.
Otherwise normal EGD to third part of the duodenum

=====================
IMAGING/STUDIES
=====================
___ ECG
Sinus bradycardia. Anterior T wave changes are biphasic. 
Consider ischemia.
Compared to the previous tracing of ___ anterior T wave 
changes are now
seen. 
QTc ___

___ RUQ US
1. Cirrhosis with patent hepatic vasculature.
2. Splenomegaly

___ CXR
Compared to chest radiographs ___ and ___.
An apparent oval ring shadow projecting over the right lung base 
laterally hasa thicker wall today than in ___.  Lungs are 
otherwise clear. 
Cardiomediastinal and hilar silhouettes and pleural surfaces are 
normal. 
RECOMMENDATION(S):  Chest CT for possible indolent infection or 
superinfection
of cystic right lower lobe lung lesion.

___ CT Chest WO Contrast
1.  The recent radiographic finding can be explained by a small 
loculated
effusion with adjacent atelectasis in the right lower lobe. 
2.  Multiple millimetric pulmonary nodules do not require any 
specific ___.
3.  Please refer to the MRI abdomen of ___ for 
subdiaphragmatic
findings in this ___ transplant patient.
 
Brief Hospital Course:
___ yo M with history of ETOH cirrhosis s/p ___ 
transplant ___ at ___, ___/chronic rejection and recurrent 
Child's C cirrhosis, MELD 31 on admission, presenting as direct 
admission with fatigue and malaise, with concern for worsening 
hepatic encephalopathy, improving with treatment of complicated 
UTI. 

# EtOH cirrhosis s/p ___ transplant: patient originally 
developed EtOH cirrhosis and underwent ___ transplant 
in ___. Unfortunately he developed ___ or 
alloimmune hepatitis resulting in graft 
dysfunction/liver failure and is again listed for transplant. 
Currently Childs class C, c/b new HE (presenting symptom, 
described below). EGD with 1 cord of small varices at distal 
esophagus and portal hypertensive gastropathy. The patient was 
continued on tacrolimus 0.5 mg daily, and ursodiol during the 
admission. As below, hepatic encephalopathy improved with 
treatment complicated UTI. 

# Hepatic encephalopathy: History of hepatic encephalopathy in 
the past and on recent previous admission. Full workup was 
pursued. RUQ US with dopplers which was negative for thrombus or 
other acute process. Full infectious workup was pursued 
including chest x ray, urine and blood cultures. The patient had 
no ascites amenable to diagnostic paracentesis. There was no 
evidence of active bleeding as below. The patient was found to 
have pyuria and was started on IV ceftriaxone which was 
transitioned to PO ciprofloxacin to complete a 10 day course for 
a complicated UTI. Urine culture was unfortunately contaminated, 
though patient had no history of resistant UTI in the past. The 
patient improved on antibiotics. Continued on home lactulose and 
rifaximin. The patient was alert and oriented without confusion 
on discharge. 

# Complicated UTI: Patient found to have pyuria on UA though 
aymptomatic. Urine culture contaminated though as above no 
history of resistant UTI. Started on IV ceftriaxone which was 
transitioned to PO ciprofloxacin for a total of 10 days 
(___). 

# Acute on chronic kidney disease: patient has a baseline Cr 
___ (background disease of likely chronic allograft 
nephropathy). Cr on prior discharge ___. Slightly elevated 
to 1.7 on admission. Improved with treatment of above UTI and 
transfusions for anemia as below. Had slight bump prior to 
discharge that was likely due to dehydration from being NPO for 
EGD, it remained stable at 1.6, and he will have it rechecked on 
___.

# Anemia: Baseline ___. The patient required 3u PRBC during the 
admission. There was no evidence of active bleeding or 
hemolysis. The patient underwent EGD without source to 
explaining etiology of worsening anemia. Anemia thought 
secondary to chronic disease in setting of cirrhosis and 
underproduction. The patient's H/H remained stable after 
transfusion and was discharged with H/H of ___.

# GIB/Varices: The patient underwent EGD during the admission 
with 1 cord of small varices in distal esophagus and portal 
hypertensive gastropathy. Continued on home nadolol and 
omeprazole. 

# CXR with oval ring shadow: The patient underwent subsequent CT 
without concerning findings. Finding explained by small 
loculated effusion with adjacent atelectasis.

====================
CHRONIC ISSUES
====================
# Depression: Patient continued home esciptalopram. 

# Gout: Patient continued home allopurinol with renal dosing.

# Insomnia: Patient continued home trazodone.

====================
TRANSITIONAL ISSUES
====================
- Continue oral antibiotics for UTI for a total of 10 days 
(___)
- Ensure weekly MELD Labs
- Ensure follow up in ___ and with PCP
- ___ colonoscopy as an outpatient
- Check chem10, LFTs on ___, trend creatinine

#CODE: Full 
#CONTACT: ___ (wife) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Escitalopram Oxalate 15 mg PO DAILY 
3. Lactulose 15 mL PO TID 
4. Magnesium Oxide 400 mg PO DAILY 
5. Nephrocaps 1 CAP PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Rifaximin 550 mg PO BID 
8. Tacrolimus 0.5 mg PO DAILY 
9. TraZODone 50 mg PO QHS:PRN insomnia 
10. Ursodiol 300 mg PO TID 
11. Nadolol 40 mg PO DAILY 
12. Cyanocobalamin 1000 mcg IM/SC ONCE MONTHLY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Escitalopram Oxalate 15 mg PO DAILY 
3. Lactulose 30 mL PO TID 
RX *lactulose 20 gram/30 mL 30 mL by mouth three times a day 
Refills:*0
4. Nadolol 40 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Rifaximin 550 mg PO BID 
7. Tacrolimus 0.5 mg PO DAILY 
8. TraZODone 50 mg PO QHS:PRN insomnia 
9. Ursodiol 300 mg PO TID 
10. Multivitamins W/minerals 1 TAB PO DAILY 
RX ___  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0
11. Cyanocobalamin 1000 mcg IM/SC ONCE MONTHLY 
12. Magnesium Oxide 400 mg PO DAILY 
13. Ciprofloxacin HCl 500 mg PO Q12H Duration: 17 Doses 
To complete 10 day (20 dose) course. 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*17 Tablet Refills:*0
14. Outpatient Lab Work
ICD10: ___
Please obtain: CHEM10, AST/ALT/alk phos/T. bili/LDH/albumin, 
___ on ___
SEND TO: ___, MD
Phone: ___ Fax: ___ 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
====================
Hepatic Encephalopathy
Complicated Urinary Tract Infection
EtOH cirrhosis s/p ___ transplant
Acute on chronic kidney disease
Anemia

Secondary Diagnoses
====================
Gastric Varices
Depression
Gout
Insomnia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your stay at ___. You 
were admitted to the hospital with fatigue and confusion. You 
were found to have signs of a urinary tract infection and were 
started on antibiotics. You will need to continue antibiotics 
for a total of 10 days. 

Your blood counts were also found to be low during the 
admission, and were given blood transfusions while you were here 
which you responded well to. You underwent an endoscopy which 
did not reveal any signs of bleeding. The low blood counts are 
most likely from your cirrrhosis and the fact that your body 
isn't producing as many cells as it should. 

Your medication list and outpatient appointments are listed in 
your discharge paperwork.  

It is very important you have your labs checked on ___, 
___ including your kidney function and liver labs. 

We wish you the best!
-your ___ Care team
 
Followup Instructions:
___